US07700589B2
83c) 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid
17.5 g (36.6 mmol) ethyl 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate dissolved in 100 mL MeOH was combined with 200 mL 1 M NaOH and stirred overnight at RT. The reaction mixture was filtered, the filtrate washed three times with tert-butylmethylether and combined with 200 mL 1 M HCl. The aqueous phase was extracted three times with EtOAc, the combined organic phases were dried, filtered and evaporated down under reduced pressure. The residue was triturated with diisopropylether, suction filtered, stirred with diethyl ether and dried at 50° C. in the circulating air dryer.

reactant | ethyl 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionate | 36.6 mmol, 17.5 g | CC=1C=C(C=CC1C)CC(C(=O)OCC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H34N4O4
reactant | NaOH | 1 M, 200 mL | [OH-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 3-(3,4-dimethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | CC=1C=C(C=CC1C)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H30N4O4
